US05846982
1-tert-butoxycarbonyl-4-piperidone
A solution of 9.0 gm (61.5 mmol) 4-piperidone hydrochloride monohydrate in dioxane/water at 0° C. was treated sequentially with aqueous sodium carbonate and 14.4 gm (68 mmol) 2,2-dimethylpropanoic anhydride (BOC anhydride). The resultant slurry was stirred vigorously at room temperature for 18 hours. The reaction mixture was then concentrated under reduced pressure and the residue diluted with ethyl acetate. This mixture was treated with 1.5M aqueous sodium hydrogen sulfate until the pH was about 2. The layers were separated and the remaining organics were washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure to give 9.8 gm (80%) of the title compound as a tan solid.

reactant | 4-piperidone hydrochloride monohydrate | 61.5 mmol, 9.0 gm | O.Cl.N1CCC(CC1)=O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,2-dimethylpropanoic anhydride | 68 mmol, 14.4 gm | CC(C(=O)OC(C(C)(C)C)=O)(C)C | C10H18O3
solvent | dioxane water | O1CCOCC1.O
product | 1-tert-butoxycarbonyl-4-piperidone | 9.8 gm, 80% | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
